US04026887
α-Carboxy-p-chloromethylphenylacetylnitrophenyl polymer prepared as in the procedure of Example 22, carrying four m. mole of p-chloromethylphenylmalonic acid was suspended for about 8 hours in 20 ml of dry methylene chloride solution containing 1 millimole of 3-[(acetyloxy)methyl]-7-amino-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid propionyloxymethyl ester. After only traces of the 7-aminocephalosporanic acid ester derivative remain in solution, which is determined by thin layer chromatography on cellulose in 70% aqueous propanol, the polymer is filtered off and washed with portions of 50 ml each of methylene chloride. The combined filtrates are evaporated and the residue is dissolved in 20 ml of distilled water. The solution is acidified to a pH of 2 by adding 0.2 normal hydrochloric acid and extracted twice with ethylacetate. The organic solution is dried over sodium sulfate and evaporated at room temperature. The remaining solid is dried overnight over phosphorus pentoxide under vacuum to give 3-[(acetyloxy)methyl]-7-[[2-[4-(chloromethyl)phenyl]-2-carboxyacetyl] amino]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid propionyloxymethyl ester.

reactant | p-chloromethylphenylmalonic acid | ClCC1=CC=C(C=C1)C(C(=O)O)C(=O)O | C10H9ClO4
reactant | 3-[(acetyloxy)methyl]-7-amino-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid propionyloxymethyl ester | 1 millimole | C(CC)(=O)OCOC(=O)C=1N2C(C(C2SCC1COC(C)=O)N)=O | C14H18N2O7S
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
solvent | propanol | C(CC)O | C3H8O
product | 3-[(acetyloxy)methyl]-7-[[2-[4-(chloromethyl)phenyl]-2-carboxyacetyl] amino]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid propionyloxymethyl ester | C(CC)(=O)OCOC(=O)C=1N2C(C(C2SCC1COC(C)=O)NC(C(C(=O)O)C1=CC=C(C=C1)CCl)=O)=O | C24H25ClN2O10S
